US06995143B2
A][[2-(6-amino-9H-purin-9-yl) ethyl]methylamino]-ethanol
0.6 g (3 mmol) 9-(chloroethyl)-6-amino-9H-purine (Chemistry of Heterocyclic Compounds, 1996, 32, 333–337) was dissolved in 10 ml n-butanol and treated with 0.684 g (9 mmol) of N-methylaminoethanol at 110° C. for 18 h. The solvent was evaporated under reduced pressure and the crude mixture purified by flash chromatography on silica gel with a gradient of 0 to 25% methanol in dichloromethane to yield 0.68 g (94%) of a light orange solid. MS (ISP): 237.3 (MH+).

reactant | 9-(chloroethyl)-6-amino-9H-purine | 3 mmol, 0.6 g | ClCCN1C2=NC=NC(=C2N=C1)N | C7H8ClN5
reactant | N-methylaminoethanol | 9 mmol, 0.684 g | CNC(C)O | C3H9NO
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | [[2-(6-amino-9H-purin-9-yl) ethyl]methylamino]-ethanol | 0.68 g, 94% | NC1=C2N=CN(C2=NC=N1)CCN(C)C(C)O | C10H16N6O
